US05112851
b) 1-(4-Chlorophenyl)-1-(4-cyanophenyl)cyclopropane
600 mg of Copper powder are cauterized with 10 mg of iodine in 10 ml of toluene. 1.2 g of Diiodomethane and 500 mg of 1-(4-cyanophenyl)-1-(4-chlorophenyl)-ethylene are added and the mixture refluxed for 140 hours and then filtered and the filtrate concentrated. The oily residue is chromatographed on silica gel with toluene as eluant.

reactant | iodine | 10 mg | II | I2
reactant | Diiodomethane | 1.2 g | ICI | CH2I2
reactant | 1-(4-cyanophenyl)-1-(4-chlorophenyl)-ethylene | 500 mg | C(#N)C1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)Cl | C15H10ClN
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Copper | 600 mg | [Cu] | Cu
product | 1-(4-Chlorophenyl)-1-(4-cyanophenyl)cyclopropane | ClC1=CC=C(C=C1)C1(CC1)C1=CC=C(C=C1)C#N | C16H12ClN
